US04322439
4 g of sodium azide are added portionwise to 8.3 g of 7-methoxy-1-tetralone in 36 ml of acetic acid. Then 17 ml of concentrated sulphuric acid are added dropwise, without a rise in temperature over 40°; the solution is poured onto ice and neutralised with 2 N sodium hydroxide solution. The separating bulk of crystals is removed and recrystallised from ethyl acetate. One obtains 6.4 g of 8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one (m.p. 137°-138°).

reactant | sodium azide | 4 g | [N-]=[N+]=[N-].[Na+]
reactant | 7-methoxy-1-tetralone | 8.3 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | sulphuric acid | 17 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
product | 8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 6.4 g | COC1=CC2=C(CCCC(N2)=O)C=C1 | C11H13NO2
